US06329405B1
(99a) N-[1-(3,4-Difluorophenyl)ethyl]-N-[(3-nitrophenyl)-(thiophen-2-yl)methyl}amine
Following a similar procedure to that described in Example (1a), 3.03 g of 3-nitrophenyl thiophen-2-yl ketone and 2.52 g of 1-(3,4-difluorophenyl)ethylamine were reacted, to obtain 4.62 g of the title compound as a reddish orange oil.

reactant | 3-nitrophenyl thiophen-2-yl ketone | 3.03 g | S1C(=CC=C1)C(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C11H7NO3S
reactant | 1-(3,4-difluorophenyl)ethylamine | 2.52 g | FC=1C=C(C=CC1F)C(C)N | C8H9F2N
product | N-[1-(3,4-Difluorophenyl)ethyl]-N-[(3-nitrophenyl)-(thiophen-2-yl)methyl}amine | 4.62 g | FC=1C=C(C=CC1F)C(C)NC(C=1SC=CC1)C1=CC(=CC=C1)[N+](=O)[O-] | C19H16F2N2O2S
